US04412076
4-chloroquinoline--0.187 g (1.14×10-3 mols)
a yield of 4-hydroxyquinoline of 15% relative to the 7-chloro-1,2,3,4-tetrahydroquinolin-4-one converted.

reactant | 4-hydroxyquinoline | OC1=CC=NC2=CC=CC=C12 | C9H7NO
reactant | 7-chloro-1,2,3,4-tetrahydroquinolin-4-one | ClC1=CC=C2C(CCNC2=C1)=O | C9H8ClNO
product | 4-chloroquinoline | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
